US05171354
A solution of 7.45 g of 2',6'-difluoro-2-(3-pyridyl)acetophenone oxime in 170 ml of xylene is mixed with 8.00 g of diethoxypropane and then heated to 80° C. with stirring. After a clear solution has formed, 0.20 g of pulverised Amberlyst® A15 is added and the entire mixture is heated to reflux temperature. After 6 hours, the reaction mixture is subjected to clarifying filtration through Celite® and the filtrate is freed of excess solvent at 60° C. in a water jet vacuum. After drying in a high vacuum, 2',6'-difluoro-2-(3-pyridyl)acetophenone O-(1-ethoxy-1-methylethyl)oxime is obtained as an E/Z isomer mixture in the form of a yellow oil. On chromatographic separation on silica gel using n-hexane/ethyl acetate (3:1), the E isomer [1H-NMR (CDCl3, 200 MHz): 1.428 ppm (s, --C(CH3)2)] is obtained first in the form of slightly yellowish oils.

reactant | 2',6'-difluoro-2-(3-pyridyl)acetophenone oxime | 7.45 g | FC1=C(C(=CC=C1)F)C(CC=1C=NC=CC1)=NO | C13H10F2N2O
reactant | diethoxypropane | 8.00 g | C(C)OC(C)(C)OCC | C7H16O2
solvent | xylene | 170 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2',6'-difluoro-2-(3-pyridyl)acetophenone O-(1-ethoxy-1-methylethyl)oxime | C(C)OC(C)(C)ON=C(CC=1C=NC=CC1)C1=C(C=CC=C1F)F | C18H20F2N2O2
